US05474998
Step B: 4-Chloro-2-hydroxybenzaldehyde
Modification of a procedure described by G. Casiraghi et al., (J. Chem. Soc., Perkin Transac. I., 1978, 318), was utilized in the preparation of substituted salicylaldehydes. To a mixture of 26 g of 3-chlorophenol dissolved in 200 mL, of toluene at 10° C. was added dropwise 100 mL, of a 2M solution of ethylmagnesium chloride in diethyl ether. The ether was distilled off and the reaction mixture was cooled to room temperature and 26.0 g of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) was added followed by 15.0 g of paraformaldehyde. The reaction mixture was heated at 70° C. for 18 h, cooled to 10° C. and a solution of 20 mL of concentrated HCl in 100 g of ice was added followed by 200 mL of hexane. The organic phase was separated and washed twice with 100 mL of water, once with 100 mL of brine, dried over anhydrous MgSO4, filtered and concentrated under vacuum to afford a viscous oil. This was taken up in 150 mL of ethanol and a solution of 15.0 g of copper (II) acetate dissolved in 150 mL of H2O was added dropwise. The resulting precipitate was filtered, washed with water and then with ether and added to a solution of 200 mL of ether and 20 mL of concentrated H2SO4 in 100 g of ice. The mixture was stirred until ail solids were dissolved, 100 mL of hexane was added, and the organics were washed with 100 mL of H2O, then 100 mL of brine, dried over anhydrous MgSO4, filtered and concentrated under vacuum to afford 15.0 g of a yellow solid, mp 47°-48° C. 1H NMR (CDCl3) δ6.98 (d, 1H), 7.01 (s, 1H), 7.50 (d, 1H), 9.85 (s, 1H), 11.18 (s, 1H). IR (Nujol) 3300-2800, 1670 cm-1.

reactant | 3-chlorophenol | 26 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | ethylmagnesium chloride | C(C)[Mg]Cl
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | H2O | 150 mL | O | H2O
catalyst | copper (II) acetate | 15.0 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Chloro-2-hydroxybenzaldehyde | 15.0 g | ClC1=CC(=C(C=O)C=C1)O | C7H5ClO2
